* AnalogGenie 77
M1 (VOUT2 VIN2 IB1 VSS) nmos4
M0 (VOUT1 VIN1 IB1 VSS) nmos4
M3 (VOUT2 VB1 VDD VDD) pmos4
M2 (VOUT1 VB1 VDD VDD) pmos4
R1 (VDD VOUT1) resistor
R0 (VDD VOUT2) resistor