* AnalogGenie 94
R1 (VOUT2 VDD) resistor
R0 (VOUT1 VDD) resistor
R2 (net07 VOUT1) resistor
M2 (VOUT2 VIN2 net07 VSS) nmos4
M0 (VOUT1 VIN1 net07 VSS) nmos4
M1 (net07 VB1 VSS VSS) nmos4